US07452911B2
3.54d {4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-phenyl}-(2-pyrrolidin-1-yl-ethyl)-amine
Prepared according to general working method I from (4-iodo-phenyl)-(2-pyrrolidin-1-yl-ethyl)-amine (450 mg, 1.42 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (450 mg, 2.11 mmol).

reactant | (4-iodo-phenyl)-(2-pyrrolidin-1-yl-ethyl)-amine | 1.42 mmol, 450 mg | IC1=CC=C(C=C1)NCCN1CCCC1 | C12H17IN2
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 2.11 mmol, 450 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | {4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-phenyl}-(2-pyrrolidin-1-yl-ethyl)-amine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)NCCN1CCCC1 | C25H24ClN3
